US06734191B2
AMD9671: Preparation of N′-(4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-ethane-1,2-diamine (hydrobromide salt)
Using General Procedure B: To a stirred solution of N′-(1H-benzirnidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine (250 mg, 0.629 mmol) and (2-oxo-ethyl)-carbamic acid tert-butyl ester (100 mg, 0.628 mmol) in THF (6.3 mL) was added NaBH(OAc)3 (173 mg, 0.816 mmol) and the mixture was stirred at room temperature for 22 h. Purification of the crude material by column chromatography on silica gel (200:5:1 CH2Cl2/MeOH/NH4OH) afforded a colourless oil (47 mg).

reactant | N′-(1H-benzirnidazol-2-ylmethyl)-N′-(5,6,7,8-tetrahydro-8-quinolinyl)-1,4-benzenedimethanamine | 0.629 mmol, 250 mg | N1C(=NC2=C1C=CC=C2)CN(CC2=CC=C(C=C2)CN)C2CCCC=1C=CC=NC21 | C25H27N5
reactant | (2-oxo-ethyl)-carbamic acid tert-butyl ester | 0.628 mmol, 100 mg | C(C)(C)(C)OC(NCC=O)=O | C7H13NO3
reactant | NaBH(OAc)3 | 0.816 mmol, 173 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 6.3 mL | C1CCOC1 | C4H8O
product | N′-(4-{[(1H-Benzimidazol-2-ylmethyl)-(5,6,7,8-tetrahydro-quinolin-8-yl)-amino]-methyl}-benzyl)-ethane-1,2-diamine | 47 mg | N1C(=NC2=C1C=CC=C2)CN(C2CCCC=1C=CC=NC21)CC2=CC=C(CNCCN)C=C2 | C27H32N6
